US08247556B2
3-(4-Methyl-piperazin-1-ylmethyl)-4-pentafluoroethyl-phenylamine was prepared from 1-Methyl-4-(5-nitro-2-pentafluoroethyl-benzyl)-piperazine similar to that described in the preparation of 4-Pentafluoroethyl-3-(2-pyrrolidin-1-yl-ethoxy)-phenylamine.

reactant | 1-Methyl-4-(5-nitro-2-pentafluoroethyl-benzyl)-piperazine | CN1CCN(CC1)CC1=C(C=CC(=C1)[N+](=O)[O-])C(C(F)(F)F)(F)F | C14H16F5N3O2
reactant | 4-Pentafluoroethyl-3-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | FC(C(F)(F)F)(C1=C(C=C(C=C1)N)OCCN1CCCC1)F | C14H17F5N2O
product | 3-(4-Methyl-piperazin-1-ylmethyl)-4-pentafluoroethyl-phenylamine | CN1CCN(CC1)CC=1C=C(C=CC1C(C(F)(F)F)(F)F)N | C14H18F5N3
